US06605200B1
Synthesis of 1-(6-Aminohexyl)-2-(6-methyl-2-pyridyl)imidazole:
To a solution of 2-(6-methyl-2-pyridyl)-1-(6-(phthalimido)hexyl)imidazole (4.2 g) in 50 mL EtOH was added 1.5 mL hydrazine hydrate. The resulting solution was stirred at 80° C. overnight. The solution was cooled to room temperature and suction filtered to remove the precipitate. The filtrate was evaporated to give the crude product, which was purified by a silica gel column using 5% conc. NH3H2O/CH3CN as the eluent. Yield: about 2.5 g.

reactant | 2-(6-methyl-2-pyridyl)-1-(6-(phthalimido)hexyl)imidazole | 4.2 g | CC1=CC=CC(=N1)C=1N(C=CN1)CCCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C23H24N4O2
reactant | hydrazine hydrate | 1.5 mL | O.NN
solvent | EtOH | 50 mL | CCO | C2H6O
product | 1-(6-Aminohexyl)-2-(6-methyl-2-pyridyl)imidazole | NCCCCCCN1C(=NC=C1)C1=NC(=CC=C1)C | C15H22N4
